US08114902B2
N-[1,1-bis(acetoxymethyl)-3-(4′-bromo-3-chloro-2′-fluorobiphenyl-4-yl)propyl]acetamide
A mixed solution of N-{1,1-bis(acetoxymethyl)-3-[2-chloro-4-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)phenyl]propyl}acetamide (2.05 g) of Reference Example 22, 1-bromo-3-fluoro-4-iodobenzene (1.39 g), sodium hydrogen carbonate (2.02 g) and tetrakistriphenylphosphine palladium (51 mg) in 1,2-dimethoxyethane (30 mL)-water (10 mL) was stirred at 100° C. for 9 hr. The reaction mixture was extracted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. Pyridine (20 mL) and acetic anhydride (2 mL) were added to the residue, and the mixture was stood at room temperature for one day. Water was added to the reaction mixture, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound (1.30 g) as white crystals.

reactant | N-{1,1-bis(acetoxymethyl)-3-[2-chloro-4-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)phenyl]propyl}acetamide | 2.05 g | C(C)(=O)OCC(CCC1=C(C=C(C=C1)B1OCC(CO1)(C)C)Cl)(COC(C)=O)NC(C)=O | C22H31BClNO7
reactant | 1-bromo-3-fluoro-4-iodobenzene | 1.39 g | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | sodium hydrogen carbonate | 2.02 g | C(O)([O-])=O.[Na+]
reactant | water | 10 mL | O | H2O
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
product | N-[1,1-bis(acetoxymethyl)-3-(4′-bromo-3-chloro-2′-fluorobiphenyl-4-yl)propyl]acetamide | 1.30 g | C(C)(=O)OCC(CCC1=C(C=C(C=C1)C1=C(C=C(C=C1)Br)F)Cl)(COC(C)=O)NC(C)=O | C23H24BrClFNO5
